US04504305
EXAMPLE 8: 2-[1-(ethoxyimino)propyl]-5-(4-formamidophenyl)-3-hydroxy-2-cyclohexen-1-one
Into 25 ml of chloroform was dissolved 1.3 g of 5-(4-formamidophenyl)-3-hydroxy-2-propionyl-2-cyclohexen-1-one and to the solution was added 1.0 g of ethoxyamine and 5 ml og ethanol. The mixture was kept for 3 hours in a water bath having 40° C. and the reacting solution was washed with a dilute hydrochoric acid solution and water. The solution was extracted with 15 ml of aqueous solution containing 5% of sodium hydroxide and to the alkaline solution was added a dilute hydrochloric acid solution and the crystal sedimented was extracted with chloroform. The solution was washed with water and to the solution was added anhydrous magnesium sulfate and a small amount of active carbon. And then, the mixture was agitated and filtered and the filtrate solution was concentrated. Ethyl ether was added in the residue and the crystal sedimented was collected with a filtering step and 1.0 g of desired compound was obtained. It was in the form of colorless crystals having a melting point of 111°-113.5° C.

reactant | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 5-(4-formamidophenyl)-3-hydroxy-2-propionyl-2-cyclohexen-1-one | 1.3 g | C(=O)NC1=CC=C(C=C1)C1CC(=C(C(C1)=O)C(CC)=O)O | C16H17NO4
reactant | ethoxyamine | 1.0 g | C(C)ON | C2H7NO
solvent | ethanol | C(C)O | C2H6O
product | 2-[1-(ethoxyimino)propyl]-5-(4-formamidophenyl)-3-hydroxy-2-cyclohexen-1-one | 1.0 g | C(C)ON=C(CC)C=1C(CC(CC1O)C1=CC=C(C=C1)NC=O)=O | C18H22N2O4
